US05614520
730 mg of 3-Nitrothiobenzamide was dissolved in 5 ml of ethanol, 725 mg of ethyl 2-chloroacetoacetate was added to the solution, and the mixture was heated under reflux for 18 hours. After the reaction mixture was cooled, the precipitated crystal was collected by filtration and recrystallized from a mixed solvent consisting of 10 ml of ethanol and 5 ml of ethyl acetate. 800 mg out of 898 mg of the resulting crystal was suspended in 10 ml of ethanol, 10 ml of an aqueous 1N sodium hydroxide solution was added to the suspension, and the mixture was heated at 70° C. for 2 hours. After the completion of the reaction, ethanol was removed by distillation, and the residue was neutralized with 1N hydrochloric acid. The precipitated crystal was collected by filtration and recrystallized from an aqueous 50% ethanol solution to give 560 mg of 4-methyl-2-(3-nitrophenyl)-5-thiazolecarboxylic acid (yield: 59%).

reactant | 3-Nitrothiobenzamide | 730 mg | [N+](=O)([O-])C=1C=C(C(=S)N)C=CC1 | C7H6N2O2S
reactant | ethyl 2-chloroacetoacetate | 725 mg | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-methyl-2-(3-nitrophenyl)-5-thiazolecarboxylic acid | 560 mg, yield: 59% | CC=1N=C(SC1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H8N2O4S
